US05250552
To a room temperature suspension of potassium t-butoxide (73 mg, 0.65 mmols) and cyanamide (96 mg, 2.27 mmols) in mL of t-butanol is added (Z)-5-[(5-methoxy-2-methyl-1H-indol-3-yl)methylene]-2-(methylthio)-4(5H)-thiazolone (146 mg, 0.46 mmols). The mixture is heated at reflux for 5 minutes, then cooled to room temperature. The mixture is poured into 50 mL of water and the orange solution is washed with diethyl ether. The layers are separated and the aqueous layer is acidified with 10% aqueous hydrochloric acid. The orange solid is collected by filtration, washing with water to give 106 mg (74%) of (Z)-[4,5-dihydro-5-[(5-methoxy-2-methyl-1H-indol-3-yl)methylene]-4-oxo-2-thiazolyl]cyanamide; mp>300.

reactant | potassium t-butoxide | 0.65 mmols, 73 mg | CC(C)([O-])C.[K+]
reactant | cyanamide | 2.27 mmols, 96 mg | N#CN | CH2N2
reactant | t-butanol | C(C)(C)(C)O | C4H10O
reactant | (Z)-5-[(5-methoxy-2-methyl-1H-indol-3-yl)methylene]-2-(methylthio)-4(5H)-thiazolone | 0.46 mmols, 146 mg | COC=1C=C2C(=C(NC2=CC1)C)\C=C/1\C(N=C(S1)SC)=O | C15H14N2O2S2
solvent | water | 50 mL | O | H2O
product | (Z)-[4,5-dihydro-5-[(5-methoxy-2-methyl-1H-indol-3-yl)methylene]-4-oxo-2-thiazolyl]cyanamide | 106 mg, 74% | COC=1C=C2C(=C(NC2=CC1)C)\C=C/1\C(N=C(S1)NC#N)=O | C15H12N4O2S
